US05726295
Preparation of 4,7-Dihydroxy-coumarin
A 300 cc autoclave was charged with 7-benzyloxy-4-hydroxycoumarin (3 g, 3.7 mmol), prepared in accordance with Example 5, 5% Pd on carbon (0.18 g) and 85 mL of methanol and the autoclave was purged with N2. The autoclave was pressurized with H2 to a pressure of about 100 psi and maintained at that pressure. The exothermic reaction was carried out at ~50° C. for ~2 hrs. After the completion of hydrogenolysis, the reactor was flushed with N2 and the contents were transferred into a beaker using a long pipet. The mixture containing Pd/C was dried over MgSO4 and filtered through a frit. The filtrate was evaporated to dryness and finally dried overnight at 45° C. The purity of the material as determined by LC was 95%; yield ~90%. The product was characterized by NMR.

reactant | 7-benzyloxy-4-hydroxycoumarin | 3.7 mmol, 3 g | C(C1=CC=CC=C1)OC1=CC=C2C(=CC(OC2=C1)=O)O | C16H12O4
catalyst | Pd on carbon | 0.18 g | [Pd] | Pd
solvent | methanol | 85 mL | CO | CH4O
product | 4,7-Dihydroxy-coumarin | yield ~90% | OC1=CC(OC2=CC(=CC=C12)O)=O | C9H6O4
